US08710043B2
Step 7. ((S)-tert-Butyl (5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-hydroxypyridin-3-yl)carbamate
To a stirred mixture of (S)-tert-butyl (2-(benzyloxy)-5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)pyridine)-carbamate (800 mg, 0.0012 mol) in THF (8 mL) was added 10% Pd/C (800 mg, Aldrich). The reaction mixture was stirred under a hydrogen atmosphere in the form of a hydrogen bladder (˜20-22 PSI) for 12 h at room temperature. After completion of the reaction (monitored by TLC, 100% EtOAc), the reaction mixture was filtered through Celite® brand filter agent. The filtrate was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 10.40 (br. s., 1H), 9.42 (d, J=7.8 Hz, 1H), 9.01 (s, 1H), 8.45 (d, J=4.8 Hz, 1H), 8.35 (d, J=1.8 Hz, 1H), 7.95 (s, 1H), 7.80 (t, 9.6 Hz, 1H), 7.61-7.45 (m, 4H), 7.37 (d, 8.4 Hz, 1H), 1.44 (s, 9H). MS (ESI, positive ion) m/z: 541 (M+H).

reactant | (S)-tert-butyl (2-(benzyloxy)-5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)pyridine) carbamate | 0.0012 mol, 800 mg | C(C)(C)(C)C=1C(=NC=C(C1)C(N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F)=O)OCC1=CC=CC=C1.C(N)([O-])=O
reactant | hydrogen | [H][H] | H2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 800 mg | [Pd] | Pd
product | (S)-tert-Butyl (5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-hydroxypyridin-3-yl)carbamate | FC=1C=C(C=CC1OC(F)(F)F)[C@@H](C1=NC=CC=C1F)NC(=O)C=1C=C(C(=NC1)O)NC(OC(C)(C)C)=O | C24H21F5N4O5
